US07612226B2
(3S,5S)-3-(2-Ethylbutyl)-3-methyl-5-phenylmorpholin-2-one
Boron trifluoride etherate (5.85 ml, 46 mmol) was added slowly to a solution of (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one (4.35 g, 23 mmol, see WO-A-02/051983) in tetrahydrofuran at −78° C. The solution was stirred for 50 minutes and then a solution of the Grignard reagent prepared from 3-(bromomethyl)pentane (10.9 g, 66 mmol) and magnesium turnings (2.5 g, 99 mmol) in ether (250 ml) was added over 40 minutes. The reaction mixture was stirred for a further 75 minutes at −78° C. then allowed to warm to −20° C. and quenched with saturated aqueous ammonium chloride (100 ml). More tetrahydrofuran (100 ml) was added and the organic layer was separated from the aqueous layer. The organic layer was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using an elution gradient of pentane to pentane:ether (30:70) to afford the title compound as a white solid (3.21 g).

reactant | Boron trifluoride etherate | 46 mmol, 5.85 ml | B(F)(F)F.CCOCC
reactant | (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one | CC=1C(OC[C@@H](N1)C1=CC=CC=C1)=O | C11H11NO2
reactant | 3-(bromomethyl)pentane | 66 mmol, 10.9 g | BrCC(CC)CC | C6H13Br
reactant | magnesium | 99 mmol, 2.5 g | [Mg] | Mg
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 250 ml | CCOCC | C4H10O
product | (3S,5S)-3-(2-Ethylbutyl)-3-methyl-5-phenylmorpholin-2-one | 3.21 g | C(C)C(C[C@@]1(N[C@H](COC1=O)C1=CC=CC=C1)C)CC | C17H25NO2
